US08859108B2
(ii) Synthesis of 9-bromo-10-phenylanthracene
In a 300 mL three-neck flask, 5.8 g (23 mmol) of 9-phenylanthracene and 100 mL of carbon tetrachloride were placed. Then, 30 mL of a carbon tetrachloride solution containing 4.0 g (25 mmol) of bromine was dripped into the mixture under nitrogen stream. After dripping, the solution was stirred for 12 hours at room temperature. After a certain period, 100 mL of a 1.0 M sodium thiosulfate solution was added and stirred for 1 hour, and an aqueous layer of the mixture was extracted with chloroform. The obtained extracted solution and the organic layer were combined and washed with a 0.10 M sodium thiosulfate solution, a saturated aqueous solution of sodium hydrogen carbonate, and saturated saline in this order, and then, the organic layer was dried with magnesium sulfate. The mixture was gravity filtered, and the obtained filtrate was condensed to give a solid. A toluene solution of the solid was subjected to suction filtration through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), and alumina, and the filtrate was condensed to give a solid. Methanol was added to the solid, and this suspension was irradiated with ultrasonic waves. Then, 6.4 g of a solid substance, which was target pale yellow powder, was obtained by suction filtration in a yield of 84%.

reactant | 9-phenylanthracene | 23 mmol, 5.8 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
reactant | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | bromine | 25 mmol, 4.0 g | BrBr | Br2
reactant | sodium thiosulfate | 1.0 M | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | Methanol | CO | CH4O
product | 9-bromo-10-phenylanthracene | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13Br
